US08580777B2
A. (S)-2-tert-Butoxycarbonylamino-3-(4-hydroxycyclohexyl)propionic acid
0.74 g (7.17 mmol) of rhodium was added to a solution of 7.00 g (24.88 mmol) of (S)-2-tert-butoxycarbonylamino-3-(4-hydroxyphenyl)propionic acid in 50 ml of methanol, and hydrogenation was carried out at 50 C/6 bar pressure of hydrogen. After conversion was complete, the catalyst was filtered off and the filtrate was concentrated. The product was pure enough for further reactions.

reactant | (S)-2-tert-butoxycarbonylamino-3-(4-hydroxyphenyl)propionic acid | 24.88 mmol, 7.00 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)O | C14H19NO5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | rhodium | 7.17 mmol, 0.74 g | [Rh] | Rh
product | (S)-2-tert-Butoxycarbonylamino-3-(4-hydroxycyclohexyl)propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1CCC(CC1)O | C14H25NO5
